US07777042B2
(S)-1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-(2,2,6,6-tetramethyl-piperidin-4-yl-carbamoyl)-ethyl]-amide
(S)-2-{[(S)-1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxy-phenyl)-propionic acid (60 mg, 0.12 mmol), 4-amino-2,2,6,6-tetramethylpiperidine (25 mg, 0.16 mmol), TBTU (51 mg, 1.60 mmol) and N-methyl imidazole (13 mL, 0.16 mmol) were mixed in anhydrous THF (2 mL). The mixture was stirred overnight at room temperature. A saturated aqueous sodium bicarbonate solution was added and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting oil was chromatographed (dichloromethane/methanol, 95/5) on silica gel to afford 48 mg (63%) of the title compound as a clear glass. MS: m/e 631.3 (M+H). 1H NMR (300 MHz, d6-DMSO): δ0.70-1.60 (m, 28H), 1.90 (d, 1H, J=12 Hz), 2.75 (m, 2H), 3.20 (m, 1H), 3.60 (d, 1H, J=12 Hz), 3.90 (m, 1H), 4.25 (dd, 1H, J1=9 Hz, J2=6 Hz), 4.50 (m, 2H), 6.80 (d, 2H, J=12 Hz), 7.10 (d, 2H, J=12 Hz), 7.45 (m, 4H), 7.65 (d, 1H, J=12 Hz), 7.90 (d, 1H, J=12 Hz).

reactant | (S)-2-{[(S)-1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carbonyl]-amino}-3-(4-isopropoxy-phenyl)-propionic acid | 0.12 mmol, 60 mg | FC=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)C | C24H29FN2O6S
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.16 mmol, 25 mg | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | TBTU | 1.60 mmol, 51 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methyl imidazole | 0.16 mmol, 13 mL | CN1C=NC=C1 | C4H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-1-(3-Fluoro-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(4-isopropoxy-phenyl)-1-(2,2,6,6-tetramethyl-piperidin-4-yl-carbamoyl)-ethyl]-amide | 48 mg, 63% | C(C)(C)OC1=CC=C(C=C1)C[C@@H](C(NC1CC(NC(C1)(C)C)(C)C)=O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)F | C33H47FN4O5S
